US05962479
2-Chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester
A mixture of 2,4-dichloro-6-methyl-nicotinic acid methyl ester (2.228 g, 10.13 mmol) and 1-ethyl-propyl amine (1.762 g, 20.26 mmol) in DMSO (4 ml) was heated at 110° C. for 5 hours, then at room temperature overnight. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentratd to give 1.796 g of crude material. The crude material was purified through silica gel column chromatography using chloroform to 5% methanol in chloroform as eluent to give 1.167 g (43%) of the title compound as a colorless oil. 1H NMR (CDCl3) 657.14 (brs, 1H), 6.27 (s, 1H), 3.86 (s, 3H), 3.27 (m, 1H), 2.33 (s, 3H), 1.3-1.6 (m, 4H), 0.88 (t, 6H) ppm.

reactant | 2,4-dichloro-6-methyl-nicotinic acid methyl ester | 10.13 mmol, 2.228 g | COC(C1=C(N=C(C=C1Cl)C)Cl)=O | C8H7Cl2NO2
reactant | 1-ethyl-propyl amine | 20.26 mmol, 1.762 g | C(C)C(CC)N | C5H13N
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 2-Chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester | 1.167 g, 43% | COC(C1=C(N=C(C=C1NC(CC)CC)C)Cl)=O | C13H19ClN2O2
